US07750161B2
A4.2. N-Ethyl-4-methoxy-N-piperidin-4-yl-benzenesulfonamide
A solution of 4-[ethyl-(4-methoxy-benzenesulfonyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester (11.1 g, 28 mmol) in CH2Cl2 (50 mL) is cooled at 0° C. and TFA (40 mL) is added. The mixture is stirred at 0° C. for 0.5 h and then evaporated. The residue is dissolved in CH2Cl2 (50 mL) and 1 M aq. NaOH (50 mL) is added. The mixture is stirred for 15 h at r.t., then the phases are separated and the aq. phase is extracted with CH2Cl2 (4×30 mL). The combined org. phases are washed with 1 M aq. NaOH (2×30 mL), dried (Na2SO4), filtered and evaporated to provide the title compound.

reactant | 4-[ethyl-(4-methoxy-benzenesulfonyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | 28 mmol, 11.1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N(S(=O)(=O)C1=CC=C(C=C1)OC)CC | C19H30N2O5S
reactant | TFA | 40 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | N-Ethyl-4-methoxy-N-piperidin-4-yl-benzenesulfonamide | C(C)N(S(=O)(=O)C1=CC=C(C=C1)OC)C1CCNCC1 | C14H22N2O3S
